US09371320B2
B) 3-cyclopentyl-7-methoxy-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-pyrrolo[2,3-c]pyridine-4-carbonitrile
To a solution of 3-(cyclopent-1-en-1-yl)-7-methoxy-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-pyrrolo[2,3-c]pyridine-4-carbonitrile (690 mg) in methanol (5 mL) was added 10% palladium/carbon (100 mg). The reaction mixture was stirred overnight under hydrogen atmosphere (1 atm) at 50° C., and the insoluble substance was removed by filtration through Celite. The filtrate was concentrated under reduced pressure, and the obtained residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (519 mg).

reactant | 3-(cyclopent-1-en-1-yl)-7-methoxy-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-pyrrolo[2,3-c]pyridine-4-carbonitrile | 690 mg | C1(=CCCC1)C1=CN(C=2C(=NC=C(C21)C#N)OC)COCC[Si](C)(C)C | C20H27N3O2Si
solvent | methanol | 5 mL | CO | CH4O
catalyst | palladium/carbon | 100 mg | [Pd] | Pd
product | 3-cyclopentyl-7-methoxy-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-pyrrolo[2,3-c]pyridine-4-carbonitrile | 519 mg | C1(CCCC1)C1=CN(C=2C(=NC=C(C21)C#N)OC)COCC[Si](C)(C)C | C20H29N3O2Si
